US08084620B2
Step 2 A mixture of 7-(4-methylpiperazine-1-carbonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole-1-carboxamide (the crude product prepared according to Step 1, 40 mg, 0.065 mmol), 5-bromonaphthalen-1-amine (21.61 mg, 0.097 mmol), and potassium carbonate (13.45 mg, 0.097 mmol) in toluene (1.5 mL) and ethanol (0.75 mL) was treated with [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) DCM complex (5.3 mg, 0.007 mmol) and purged with argon for ca. 5 min. The mixture was heated at 90° C. for 19 h, then was cooled to rt and concentrated. The residue was purified by preparative HPLC, then was partitioned between EtOAc and NaHCO3 (aq), the aqueous phase was extracted again with EtOAc, and the combined organic phases were dried and concentrated to provide 4-(5-aminonaphthalen-1-yl)-7-(4-methylpiperazine-1-carbonyl)-9H-carbazole-1-carboxamide as a light yellow solid (13.1 mg, 42%). 1H NMR (400 MHz, DMSO-d6) δ 11.71 (s, 1H) 8.22-8.27 (m, 2H) 8.07 (d, J=7.7 Hz, 1H) 7.73 (s, 1H) 7.55 (br. s., 1H) 7.52 (dd, J=8.6, 6.8 Hz, 1H) 7.42 (dd, J=6.9, 1.0 Hz, 1H) 7.09 (d, J=7.7 Hz, 1H) 6.96 (dd, J=8.2, 7.6 Hz, 1H) 6.64-6.70 (m, 2H) 6.49 (d, J=8.3 Hz, 1H) 6.38 (d, J=8.1 Hz, 1H) 5.85 (s, 2H) 3.48-3.59 (m, 4H) 2.17-2.37 (m, 4H) 2.14 (s, 3H). Mass spec m/z 478.10 (M+H)+.

reactant | 7-(4-methylpiperazine-1-carbonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole-1-carboxamide | CN1CCN(CC1)C(=O)C1=CC=C2C=3C(=CC=C(C3NC2=C1)C(=O)N)B1OC(C(O1)(C)C)(C)C | C25H31BN4O4
reactant | 5-bromonaphthalen-1-amine | 0.097 mmol, 21.61 mg | BrC1=C2C=CC=C(C2=CC=C1)N | C10H8BrN
reactant | potassium carbonate | 0.097 mmol, 13.45 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.75 mL | C(C)O | C2H6O
product | 4-(5-aminonaphthalen-1-yl)-7-(4-methylpiperazine-1-carbonyl)-9H-carbazole-1-carboxamide | 13.1 mg, 42% | NC1=C2C=CC=C(C2=CC=C1)C1=CC=C(C=2NC3=CC(=CC=C3C12)C(=O)N1CCN(CC1)C)C(=O)N | C29H27N5O2
